US08278482B2
1-(3-(Dichloroamino)-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride
A solution of 1-(3-Amino-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride hydrochloride (0.57 g, 1.94 mmol) in methanol (15 mL) was cooled in an ice bath for 15 min. t-BuOCl (0.69 mL, 3 equiv, 5.82 mmol) was added in one portion via syringe to the colorless solution to give a deep yellow solution. The reaction mixture was stirred for 30 min at 0° C., and then concentrated under reduced pressure to yield a colorless oil. This oil was dissolved into water and purified via reverse phase chromatography on a Shimadzu Prep-LC utilizing water/acetonitrile and 0.05% acetic acid as modifier. Fractions were collected monitoring UV absorbance at 215 nm. Fractions were pooled and concentrated via rotovap with the water bath set at 25° C. to give a white solid, (0.52 g, 83.1%). 1H NMR (D2O, 400 MHz): δ 1.47 (s, 6H), 2.27-2.32 (m, 2H), 2.422-2.56 (m, 4H), 3.10 (s, 3H), 3.55-3.61 (m, 2H), 3.65-3.69 (m, 4H). LRMS (ESI+) for C11H21Cl2F2N2+ (289.1); Found: 289 (M+).

reactant | 1-(3-Amino-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride hydrochloride | 1.94 mmol, 0.57 g | Cl.[Cl-].NC(CC[N+]1(CCC(CC1)(F)F)C)(C)C
reactant | t-BuOCl | 5.82 mmol, 0.69 mL, 3 equiv | C(C)(C)(C)OCl | C4H9ClO
reactant | water | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 1-(3-(Dichloroamino)-3-methylbutyl)-4,4-difluoro-1-methylpiperidinium chloride | [Cl-].ClN(C(CC[N+]1(CCC(CC1)(F)F)C)(C)C)Cl | InChI=1S/C11H21Cl2F2N2.ClH/c1-10(2,16(12)13)4-7-17(3)8-5-11(14,15)6-9-17;/h4-9H2,1-3H3;1H/q+1;/p-1
